US04053603
Following the procedure of Example 1, but reacting 1-(2-[2-chloro-propionyl] amino-3,4-dimethoxybenzyl) isoquinoline with methylamine, there is obtained 1-(2-[2-methylamino-propionyl] amino-3,4-dimethoxybenzyl)isoquinoline.

reactant | 1-(2-[2-chloro-propionyl] amino-3,4-dimethoxybenzyl) isoquinoline | ClC(C(=O)NC1=C(CC2=NC=CC3=CC=CC=C23)C=CC(=C1OC)OC)C | C21H21ClN2O3
reactant | methylamine | CN | CH5N
product | 1-(2-[2-methylamino-propionyl] amino-3,4-dimethoxybenzyl)isoquinoline | CNC(C(=O)NC1=C(CC2=NC=CC3=CC=CC=C23)C=CC(=C1OC)OC)C | C22H25N3O3
